US04277421
In another known process in which a Cu salt is likewise used, i.e. Cu(NO3)2, p-tert.butyltoluene is the starting material, which is first reacted with an approximately equivalent amount of bromine to give p-tert.butylbenzyl bromide which is then boiled for a prolonged period of time in combination with a Cu(NO3)2 solution. p-tert.Butylbenzaldehyde is obtained in this manner in a yield of about 42% of the theory (cf. J. Chem. Soc., 1935, page 1848).

reactant | p-tert.butyltoluene | C(C)(C)(C)C1=CC=C(C=C1)C | C11H16
reactant | bromine | BrBr | Br2
product | p-tert.butylbenzyl bromide | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
